US07491716B2
2-Thieno[3,2-b]pyridin-7-yl-malonic acid diethyl ester
Charge a flask containing sodium hydride (17.45 g, 0.44 moles) with anhydrous dioxane (500 ml) while cooling at 0° C. Add diethyl malonate (69.88 g, 0.44 moles) dropwise over one hour. Upon reaching ambient temperature, add copper (I) bromide (62.59 g, 0.44 moles). Add 7-bromothieno[3,2-b]pyridine (18.68 g, 87.26 mmol) as a solution in dioxane (50 mL). Heat the reaction to reflux for 18 hours. Concentrate the reaction solution to ˜175 mL. Pour the concentrate into concentrated ammonium hydroxide (2.5 L). Extract the aqueous phase with ethyl acetate (6×300 mL). Wash the organic layers exhaustively with 2 N sodium hydroxide until the blue color dissipates. Treat the organic layers with magnesium sulfate, filter and concentrate. Purification on silica utilizing a solution of 1:1:3 of ether, ethyl acetate and hexane as eluent yields the desired compound (14.6 gm, 57%).

reactant | sodium hydride | 0.44 moles, 17.45 g | [H-].[Na+]
reactant | diethyl malonate | 0.44 moles, 69.88 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 7-bromothieno[3,2-b]pyridine | 87.26 mmol, 18.68 g | BrC1=C2C(=NC=C1)C=CS2 | C7H4BrNS
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) bromide | 0.44 moles, 62.59 g | [Cu]Br
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2-Thieno[3,2-b]pyridin-7-yl-malonic acid diethyl ester | 14.6 gm, 57% | C(C)OC(C(C(=O)OCC)C1=C2C(=NC=C1)C=CS2)=O | C14H15NO4S
